US08217043B2
c) 1-[Biphenyl-4-ylmethyl-(2-methoxycarbonyl-acetyl)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 1-[(biphenyl-4-ylmethyl)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). ESI (m/z): 441 (M+H)+.

reactant | 1-[(biphenyl-4-ylmethyl)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC1=CC=C(C=C1)C1=CC=CC=C1 | C19H17ClN2O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 1-[Biphenyl-4-ylmethyl-(2-methoxycarbonyl-acetyl)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(C(CC(=O)OC)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C23H21ClN2O5
